US09238656B2
(1S,2S,3R,4R)-3-(6-Chloro-2-{4-[2-(4-methyl-piperazin-1-yl)-ethoxy]-phenyl}-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide (Compound CLXXV)
In a similar fashion to Compound LXXXVII, 4-(2-(4-methylpiperazin-1-yl)ethoxy)benzaldehyde (138 mg, 0.222 mmol), (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide (78.7 mg, 0.244 mmol), and Ammonium acetate (34.3 mg, 0.444 mmol) were reacted to produce 34.61 mg (28%) of the title compound. (300 MHz, DMSO-d6) 12.56 (s, 1H), 8.08 (d, J=8 Hz, 1H), 7.93 (s, 1H), 7.88 (s, 1H), 7.11 (d, J=8 Hz, 1H), 6.42 (m, 2H), 6.32 (s, 1H), 5.35 (m, 1H), 4.15 (m, 2H), 3.49 (m, 1H), 3.07 (d, J=8 Hz, 1H), 3.00 (d, J=8 Hz, 1H), 2.96-2.68 (m, 14H), 2.32 (s, 2H), 2.14 (s, 2H), 1.92 (m, 1H), 1.44 (m, 1H). MS=550 (M+H), HPLC: 1.91 min. (G Method)

reactant | 4-(2-(4-methylpiperazin-1-yl)ethoxy)benzaldehyde | 0.222 mmol, 138 mg | CN1CCN(CC1)CCOC1=CC=C(C=O)C=C1 | C14H20N2O2
reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide | 0.244 mmol, 78.7 mg | CN(C(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C(C(=NC=C1Cl)N)N)C2)C | C15H20ClN5O
reactant | Ammonium acetate | 0.444 mmol, 34.3 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-(6-Chloro-2-{4-[2-(4-methyl-piperazin-1-yl)-ethoxy]-phenyl}-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide | 34.61 mg, 28% | CN(C(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C3C(=NC=C1Cl)NC(=N3)C3=CC=C(C=C3)OCCN3CCN(CC3)C)C2)C | C29H36ClN7O2
